US08791147B2
5-((tert-Butyldimethylsilyloxy)methyl)-2-fluoro-3-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)pyridine (0.204 g, 0.490 mmol) was placed into a flask with 5.0 mL of tetra-butylammonium fluoride in THF and stirred for 4 h. The reaction was then quenched by adding water (5 mL) and extracting with EtOAc (3×5 mL). The combined organic layers were then washed with brine (1×5 mL), dried (MgSO4), filtered, and concentrated. The resulting crude oil (0.145 g, 0.480 mmol) was then placed into a flame-dried flask, and to the reaction mixture was added N-methylmorpholine N-oxide (0.169 g, 1.44 mmol), 4 Å molecular sieves (10 mg), and CH2Cl2 (1.0 mL). Tetrapropylammonium perruthenate (8.43 mg, 0.024 mmol) was then added, and the suspension was stirred at rt overnight. The reaction mixture was worked-up by filtering through Celite® and concentrating the filtrate to give 6-fluoro-5-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)nicotinaldehyde.

reactant | 5-((tert-Butyldimethylsilyloxy)methyl)-2-fluoro-3-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)pyridine | 0.490 mmol, 0.204 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C(=NC1)F)C=1C=NC(=CC1)OCC(F)(F)F | C19H24F4N2O2Si
reactant | tetra-butylammonium fluoride | 5.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-methylmorpholine N-oxide | 1.44 mmol, 0.169 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Tetrapropylammonium perruthenate | 0.024 mmol, 8.43 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 6-fluoro-5-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)nicotinaldehyde | FC1=NC=C(C=O)C=C1C=1C=NC(=CC1)OCC(F)(F)F | C13H8F4N2O2
